US05962458
Thionyl chloride (0.89 ml, 12 mmol) was added slowly to a solution of 3-(2-hydroxyethoxy)pyridine (1.13 g, 8 mmol) in trichloromethane (20 ml) at 5° C. The mixture was stirred at 5° C. for 1 hour and then at ambient temperature for 2 hours. The volatiles were removed by evaporation, the residue azeotroped with toluene and dried under vacuum to give 3-(2-chloroethoxy)pyridine hydrochloride (300 mg, 19%) as a solid.

reactant | Thionyl chloride | 12 mmol, 0.89 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2-hydroxyethoxy)pyridine | 8 mmol, 1.13 g | OCCOC=1C=NC=CC1 | C7H9NO2
solvent | trichloromethane | 20 ml | ClC(Cl)Cl | CHCl3
product | 3-(2-chloroethoxy)pyridine hydrochloride | 300 mg, 19% | Cl.ClCCOC=1C=NC=CC1 | InChI=1S/C7H8ClNO.ClH/c8-3-5-10-7-2-1-4-9-6-7;/h1-2,4,6H,3,5H2;1H
